US08034811B2
4-Fluoro-2-[(pyridin-4-ylmethyl)-amino]-benzoic acid
To a stirred mixture of 2-amino-4-fluorobenzoic acid (Aldrich, 2.0 g) and pyridine-4-carbaldehyde (1.21 ml) in 1,2-dichloroethane (20 ml) was added sodium triacetoxy-borohydride (4.1 g). The reaction mixture was stirred at room temperature for 18 hours. Silica gel was added and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel (elution with EtOAc/methanol 19/1, v/v) and gave the title compound (1.04 g). 13C-NMR (DMSO-d6) δ 169.1, 166.2, 152.5, 149.6, 148.2, 134.6, 121.9, 107.6, 102.1, 97.7, 44.6.

reactant | 2-amino-4-fluorobenzoic acid | 2.0 g | NC1=C(C(=O)O)C=CC(=C1)F | C7H6FNO2
reactant | pyridine-4-carbaldehyde | 1.21 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | sodium triacetoxy-borohydride | 4.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 4-Fluoro-2-[(pyridin-4-ylmethyl)-amino]-benzoic acid | 1.04 g | FC1=CC(=C(C(=O)O)C=C1)NCC1=CC=NC=C1 | C13H11FN2O2
